US07115591B2
2-(4-Fluorophenyl)-4-(4-chlorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
The title compound was prepared according to the method of Example 93, starting with 4-(4-chlorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone in place of 4-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone and substituting 1-fluoro-4-iodobenzene in place of 4-bromothioanisole (yield: 245 mg, 54%). mp 195–197° C. 1H NMR (300 MHz, CDCl3) δ 3.08 (s, 3H), 7.19 (m, 4H), 7.25 (m, 2H), 7.41 (d, J=9 Hz, 2H), 7.70 (m, 2H), 7.95 (d, J=9 Hz, 2H), 8.01 (s, 1H). MS (DCI/NH3) m/z 455 (M+H)+, 472 (M+NH4)+. Anal. calc. for C23H16ClFN2O3S: C, 60.78; H, 3.52; N, 6.17. Found: C, 60.81; H, 3.53; N, 5.93.

reactant | 4-(4-chlorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | ClC1=CC=C(C=C1)C=1C(NN=CC1C1=CC=C(C=C1)S(=O)(=O)C)=O | C17H13ClN2O3S
reactant | 1-fluoro-4-iodobenzene | FC1=CC=C(C=C1)I | C6H4FI
reactant | NH3 | N | H3N
product | 2-(4-Fluorophenyl)-4-(4-chlorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC1=CC=C(C=C1)N1N=CC(=C(C1=O)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)S(=O)(=O)C | C23H16ClFN2O3S
